US04933355
Ethyl 2-(3-p-bromophenylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 10 g of ethyl 2-aminothiazol-4-ylglyoxylate, 8.7 g of p-bromophenyl isocyanate and 80 ml of dimethylformamide, as yellow crystals having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 10 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | p-bromophenyl isocyanate | 8.7 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-p-bromophenylureido)thiazol-4-ylglyoxylate | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12BrN3O4S
